US06348474B1
6-Carboxy-1-(2,4-dichlorobenzylamino)-3-methyl-2-benzimidazolone
Ten percent sodium hydroxide (0.650 g) was added to a mixture of 1-(2,4-dichlorobenzylamino)-6-(ethoxycarbonyl)-3-methyl-2-benzimidazolone (0.308 g), ethanol (4 ml), tetrahydrofuran (8 ml) and water (4 ml), and the mixture was stirred at 60° C. for 2.5 hr. A part of the reaction mixture was concentrated, and neutralized with a saturated aqueous solution of sodium hydrogencarbonate. The crystals precipitated were filtered and dried to give the objective compound (0.276 g).

reactant | sodium hydroxide | 0.650 g | [OH-].[Na+]
reactant | 1-(2,4-dichlorobenzylamino)-6-(ethoxycarbonyl)-3-methyl-2-benzimidazolone | 0.308 g | ClC1=C(CNN2C(N(C3=C2C=C(C=C3)C(=O)OCC)C)=O)C=CC(=C1)Cl | C18H17Cl2N3O3
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 6-Carboxy-1-(2,4-dichlorobenzylamino)-3-methyl-2-benzimidazolone | 0.276 g | C(=O)(O)C=1C=CC2=C(N(C(N2C)=O)NCC2=C(C=C(C=C2)Cl)Cl)C1 | C16H13Cl2N3O3
